US08609692B2
2,2-dimethyl-7-(trifluoromethyl)chroman-4-one
The crude 1-[2-hydroxy-4-(trifluoromethyl)phenyl]ethanone (9.90 g, 48.5 mmol) from above was dissolved in methanol (100 mL) and acetone (3.56 mL, 48.5 mmol), and pyrrolidine (8.02 mL, 97.0 mmol) were added. The reaction was stirred at ambient temperature for 14 h; LCMS showed reaction completion. The reaction mixture was concentrated and diluted with EtOAc (300 mL), then washed with water (100 mL), 2N HCl (2×100 mL), water (50 mL), 2N NaOH (2×100 mL), water (50 mL), and brine (20 mL). The organic portion was dried (Na2SO4), filtered, concentrated, and the residue purified by silica gel chromatography (gradient elution, 0-20% EtOAc/hexanes) to give the title compound (8.93 g, 36.6 mmol, 75%) as a white solid. MS (ESI) m/z 245 (M+H)+.

reactant | 1-[2-hydroxy-4-(trifluoromethyl)phenyl]ethanone | 48.5 mmol, 9.90 g | OC1=C(C=CC(=C1)C(F)(F)F)C(C)=O | C9H7F3O2
reactant | acetone | 48.5 mmol, 3.56 mL | CC(=O)C | C3H6O
reactant | pyrrolidine | 97.0 mmol, 8.02 mL | N1CCCC1 | C4H9N
solvent | methanol | 100 mL | CO | CH4O
product | 2,2-dimethyl-7-(trifluoromethyl)chroman-4-one | 36.6 mmol, 8.93 g, 75% | CC1(OC2=CC(=CC=C2C(C1)=O)C(F)(F)F)C | C12H11F3O2
